US07723378B2
To a solution of 3-[4-(3-hydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propan-1-one (170 mg, 0.411 mmol) in DCM (10 mL) and DIPEA (0.15 mL, 0.89 mmol) is added methane sulfonylchloride (0.04 mL, 0.49 mmol) at 0° C. The reaction mixture is stirred at 0° C. for 30 min. The reaction mixture is diluted with DCM, washed with 0.1 N aq. NaOH followed by 10% aq. citric acid solution, dried over MgSO4 and evaporated to give methanesulfonic acid 3-{2,6-dimethyl-4-[3-oxo-3-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propyl]-phenoxy}-propyl ester (200 mg) as a yellow oil; LC-MS: tR=1.18 min, [M+1]+=493.26.

reactant | 3-[4-(3-hydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propan-1-one | 0.411 mmol, 170 mg | OCCCOC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C2C1CCC(C2)(C)C)C)C | C25H34O3S
reactant | DIPEA | 0.89 mmol, 0.15 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methane sulfonylchloride | 0.49 mmol, 0.04 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 3-{2,6-dimethyl-4-[3-oxo-3-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propyl]-phenoxy}-propyl ester | 200 mg | CC1=C(OCCCOS(=O)(=O)C)C(=CC(=C1)CCC(C=1SC(=C2C1CCC(C2)(C)C)C)=O)C | C26H36O5S2
